US05772977
In a 1.75-liter continuously stirred tank-type reactor with internal filters to retain the catalyst inside the reactor, operating at a volume of 1.25 liters, a temperature of 43°-45° C. and pressure of 15 psig, a working solution was circulated at a flow rate of 50 ml/min. The working solution initially contained 18 wt % ethylanthraquinone, of which 45 wt % was tetrahydroethylanthraquinone, 58 wt % of an aromatic solvent (alkylated benzenes - heavy naphtha fraction, Aromatic 150), and 24 wt % tetra-n-butylurea. The hydrogen feed rate was controlled to give a maximum reduction level (anthrahydroquinone or HQ titer) of 0.408 g mol/l. 2.254 g of a 2.6 wt % palladium on gamma alumina catalyst was added to the reactor.

reactant | ethylanthraquinone | C(C)C1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C16H12O2
reactant | tetrahydroethylanthraquinone | C(C)C1CCCC=2C(C3=CC=CC=C3C(C12)=O)=O | C16H16O2
reactant | tetra-n-butylurea | C(CCC)N(C(N(CCCC)CCCC)=O)CCCC | C17H36N2O
reactant | hydrogen | [H][H] | H2
product | anthrahydroquinone | C1=CC=C2C(=C1)C(=C3C=CC=CC3=C2O)O | C14H10O2
